US06288061B1
Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate (121.6 g) and 3-methyl-4-nitrobenzylamine (105.4 g) were reacted in the same manner as in Starting Material Synthetic Example 1. After the reaction, the solvent was evaporated under reduced pressure and the residue was subjected to silica gel column chromatography to give ethyl 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)imidazole-4-carboxylate (41.5 g), melting point 187-191° C.

reactant | Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate | 121.6 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C12H13NO5
reactant | 3-methyl-4-nitrobenzylamine | 105.4 g | CC=1C=C(CN)C=CC1[N+](=O)[O-] | C8H10N2O2
product | ethyl 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)imidazole-4-carboxylate | 41.5 g | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(=O)OCC | C20H19N3O5
